US09228120B2
Additionally, for example when mixing tetramethyldisilazane as the silicon compound B and trifluoromethanesulfonic anhydride as the acid B, the trifluoromethanesulfonic anhydride is rapidly reacted to form dimethylsilyl trifluoromethanesulfonate as the acid A.

reactant | tetramethyldisilazane | CN([Si](C)(C)C)[SiH3] | C4H15NSi2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | dimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[SiH](C)C)(F)F | C3H7F3O3SSi
